### PR TITLE
Lemmas/trivial theorems to ultimately be used for extrealTheory and borelTheory results.

### PR DESCRIPTION
**Pull request by jdyeager**
Specifically some manipuations of ITSET (for working with EXTREAL_SUM_IMAGE) and showing some functions are bijections (for a later result about suminf).

### CODE REVIEW

File: src/probability/borelScript.sml [hunk 1]
```diff
@@ -9293,6 +9293,207 @@ Proof
...
+(***********************)
+
+(*  Some of these do require addition simplifier manipulations.
+      I try to have the simplifier modified for as little as possible in order to make
+      it easier to relocate things to more appropriate places above.
+      - Jared Yeager                                                                   *)
+
+(*** IN_MEASURABLE_BOREL Theorems ***)
+
+Theorem IN_MEASURABLE_BOREL_CONG:
```
Comment (mn200) [inline src/probability/borelScript.sml:9307]: Please make this an iff oriented from f to g. That way it satisfies the constraints to be a Definition congruence, used in termination analysis.

Comment (jdyeager) [reply src/probability/borelScript.sml:9307]: I'm happy to (especially since that form is redundant with _EQ'), but I'll need you to elaborate on what exactly that entails. I'm still very fuzzy on congruences. Would that just be:
∀a f g. (∀x. x ∈ space a ⇒ f x = g x) ⇒ (f ∈ Borel_measurable a ⇔ g ∈ Borel_measurable a)

**Comment by mn200** [comment]
There's a description in the DESCRIPTION manual, but roughly yes.  The other thing would be to add a `a = b` precondition and to replace the `a` with the `b` on the RHS.

File: src/probability/borelScript.sml (hunk 1 above)
Comment (binghe) [reply src/probability/borelScript.sml:9307]: Similar changes can be done also for `IN_MEASURABLE_CONG` in `sigma_algebraTheory`.

File: src/probability/measureScript.sml [hunk 2]
```diff
@@ -5394,6 +5394,103 @@ val limsup_suminf_indicator_space = store_thm
...
+(*  These do not require addition simplifier manipulations on my part. It would
+      probably be more appropriate to add these in the proper places above.
+      - Jared Yeager                                                                   *)
+
+val _ = reveal "C";
+
+(*** measure_space Theorems ***)
+
+Theorem measure_space_cong:
+    ∀sp sts mu nu. measure_space (sp,sts,mu) ∧ (∀s. s ∈ sts ⇒ nu s = mu s) ⇒ measure_space (sp,sts,nu)
```
Comment (binghe) [inline src/probability/measureScript.sml:5410]: How about `|- (∀s. s ∈ sts ⇒ mu s = nu s) ⇒ (measure_space (sp,sts,mu) <=> measure_space (sp,sts,nu))` ? In this way it may be directly used in a rewrite rule.

Comment (jdyeager) [reply src/probability/measureScript.sml:5410]: I'll actually probably go so far as the make the sp0 and sts0 on the LHS and sp1 and sts1 on the RHS (maybe '1' and '2' to match convention, maybe just adding prime on the RHS to match congruence rule convenion, still thinking about that).
Actually, I'll rename these rules with "_eq" or some such (because I undoubtedly use them irule), and then make proper congruence rules for measurable, measure_space, and Borel_measurable.

Comment (mn200) [reply src/probability/measureScript.sml:5410]: If to be used as a congruence in the simplifier, you will need to also have equalities for all the other sub terms (`sp` and `sts`).  If you omit those, the simplifier won't even look at those sub-terms.  (This can be a powerful and useful trick, but is unlikely to be what you want here.)

Comment (jdyeager) [reply src/probability/measureScript.sml:5410]: Indeed, hence my comment about renaming the _cong stuff to _eq (when I still want those results for use with irule) and then making actual congruence results with the _cong suffix. That should be in the most recent (4th) commit.

**Comment by mn200** [comment]
Thanks for your work on this!

File: src/coretypes/pairScript.sml [hunk 3]
```diff
@@ -158,6 +158,13 @@ val PAIR_FST_SND_EQ = store_thm(
 
 val SWAP_def = new_definition ("SWAP_def", ``SWAP a = (SND a, FST a)``)
 
+(* Theorem the SWAP invert itself *)
+Theorem SWAP_SWAP:
```
Comment (mn200) [inline src/coretypes/pairScript.sml:162]: This should be `[simp]`

File: src/pred_set/src/pred_setScript.sml [hunk 4]
```diff
@@ -4657,6 +4657,13 @@ val COMMUTING_ITSET_RECURSES = store_thm(
     ASM_SIMP_TAC bool_ss [COMMUTING_ITSET_INSERT, delete_non_element]
   ]);
 
+(* Corollary *)
+Theorem ITSET_SING:
```
Comment (mn200) [inline src/pred_set/src/pred_setScript.sml:4661]: This should be `[simp]`

File: src/pred_set/src/pred_setScript.sml [hunk 5]
```diff
@@ -6451,6 +6458,14 @@ val pair_to_num_inv = Q.store_thm ("pair_to_num_inv",
    (!x y. num_to_pair (pair_to_num (x, y)) = (x, y))`,
   SRW_TAC [][pair_to_num_def, num_to_pair_def]);
 
+(* More generally applicable version of the above *)
+Theorem pair_to_num_inv':
```
Comment (mn200) [inline src/pred_set/src/pred_setScript.sml:6462]: This should be `[simp]`

File: src/probability/extrealScript.sml [hunk 6]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+    simp[extreal_of_num_def]
+QED
+
+Theorem normal_minus1:
+    Normal (-1) = -1
+Proof
+    ‘Normal (-1) = -(Normal 1)’ suffices_by simp[normal_1] >> simp[extreal_ainv_def]
+QED
+
+Theorem extreal_le_simp:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9501]: This should be a permanent `[simp]`.

File: src/probability/extrealScript.sml [hunk 7]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+    (∀x y. Normal x ≤ Normal y ⇔ x ≤ y) ∧ (∀x. −∞ ≤ x ⇔ T) ∧ (∀x. x ≤ +∞ ⇔ T) ∧
+    (∀x. Normal x ≤ −∞ ⇔ F) ∧ (∀x. +∞ ≤ Normal x ⇔ F) ∧ (+∞ ≤ −∞ ⇔ F)
+Proof
+    rw[extreal_le_def] >> Cases_on ‘x’ >> simp[extreal_le_def]
+QED
+
+val _ = mk_local_simp "extreal_le_simp";
+
+Theorem extreal_lt_simp:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9510]: Again, `[simp]` it.

File: src/probability/extrealScript.sml [hunk 8]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+    (∀x y. Normal x < Normal y ⇔ x < y) ∧ (∀x. x < −∞ ⇔ F) ∧ (∀x. +∞ < x ⇔ F) ∧
+    (∀x. Normal x < +∞ ⇔ T) ∧ (∀x. −∞ < Normal x ⇔ T) ∧ (−∞ < +∞ ⇔ T)
+Proof
+    simp[extreal_lt_eq] >> rw[extreal_lt_def]
+QED
+
+val _ = mk_local_simp "extreal_lt_simp";
+
+Theorem extreal_0_simp:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9519]: And this too.

File: src/probability/extrealScript.sml [hunk 9]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+
+Theorem EXTREAL_PROD_IMAGE_MONO:
+    ∀f g s. FINITE s ∧ (∀x. x ∈ s ⇒ 0 ≤ f x ∧ f x ≤ g x) ⇒ ∏ f s ≤ ∏ g s
+Proof
+    NTAC 2 strip_tac >> simp[GSYM AND_IMP_INTRO] >> Induct_on ‘s’ >>
+    rw[EXTREAL_PROD_IMAGE_THM,DELETE_NON_ELEMENT_RWT] >> irule le_mul2 >>
+    simp[EXTREAL_PROD_IMAGE_POS]
+QED
+
+Theorem EXTREAL_PROD_IMAGE_COUNT_ZERO:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9651]: `[simp]`

File: src/probability/extrealScript.sml [hunk 10]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+    ∀f. ∏ f (count 0) = 1x
+Proof
+    simp[COUNT_ZERO,EXTREAL_PROD_IMAGE_EMPTY]
+QED
+
+Theorem EXTREAL_PROD_IMAGE_COUNT_ONE:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9657]: `[simp]` (unless there is already a simp for `PI f {x}`; and if there isn't, why isn't there?)

File: src/probability/extrealScript.sml [hunk 11]
```diff
@@ -9463,6 +9463,268 @@ Proof
...
+    rw[] >>
+    map_every (fn tms => qspecl_then tms assume_tac ext_suminf_2d_full)
+        [[‘λm n. f m n’,‘(λm. suminf (λn. f m n))’,‘num_to_pair’],
+        [‘λn m. f m n’,‘(λn. suminf (λm. f m n))’,‘SWAP ∘ num_to_pair’]] >>
+    rfs[BIJ_NUM_TO_PAIR,INST_TYPE [alpha |-> “:num”,beta |-> “:num”] BIJ_SWAP,BIJ_COMPOSE,SF SFY_ss] >>
+    NTAC 2 $ pop_assum $ SUBST1_TAC o SYM >> irule ext_suminf_eq >>
+    rw[o_DEF] >> Cases_on `num_to_pair n` >> simp[SWAP_def]
+QED
+
+Theorem exp_mono_le:
```
Comment (mn200) [inline src/probability/extrealScript.sml:9698]: `[simp]`

File: src/real/real_sigmaScript.sml [hunk 12]
```diff
@@ -633,6 +633,39 @@ Proof
...
+(*   (generally for use in descendent theories)                              *)
+(* ------------------------------------------------------------------------- *)
+
+Definition REAL_PROD_IMAGE_DEF:
+    REAL_PROD_IMAGE f s = ITSET (λe acc. f e * acc) s (1:real)
+End
+
+val _ = overload_on ("∏", Term ‘REAL_PROD_IMAGE’);
+
+Theorem REAL_PROD_IMAGE_EMPTY:
```
Comment (mn200) [inline src/real/real_sigmaScript.sml:647]: `[simp]`.

**Comment by binghe** [comment]
@mn200 can you remind me (and @jdyeager ) how to detect unicode violations? I believe there are many here.

**Comment by mn200** [comment]
The easiest way is: when you build HOL (`bin/build`) pass the `-t` flag and the selftest that checks for these will run as part of the process.

File: src/coretypes/pairScript.sml (hunk 3 above)
Comment (jdyeager) [reply src/coretypes/pairScript.sml]: Done.
I'm always hesitant about making really simple lemmas like this simps. Basically, I tend to use them in one theorem or lemma later on, and so I figure the one proof I use them in doesn't justify adding the simplification rule to consideration for every other proof.
That said, if you say it should be a `[simp]`, I am happy to make it as such (since I trust your judgement a LOT more).

File: src/pred_set/src/pred_setScript.sml (hunk 4 above)
Comment (jdyeager) [reply src/pred_set/src/pred_setScript.sml]: Done.
Raises the question though: Should `ITSET_EMPTY` be a `[simp]`?

File: src/pred_set/src/pred_setScript.sml (hunk 5 above)
Comment (jdyeager) [reply src/pred_set/src/pred_setScript.sml]: Done.

File: src/probability/extrealScript.sml (hunk 6 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml:9501]: I agree, about this and the following two. That said, I suspect they will break a number of existing proofs, so I'll tackle them last.
I'm guessing I can use something like diminish to just remove them from consideration for areas where they would cause problems, and augment them back in afterwards.

File: src/probability/extrealScript.sml (hunk 9 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml:9651]: This raises questions about:
`ITSET_EMPTY` (again)
`COUNT_ZERO`
`REAL_PROD_IMAGE_EMPTY`
`EXTREAL_PROD_IMAGE_EMPTY`
`REAL_SUM_IMAGE_EMPTY` (which doesn't exist, I could do that quickly)
`EXTREAL_SUM_IMAGE_EMPTY`
`EXTREAL_SUM_IMAGE_COUNT_ZERO`

File: src/probability/extrealScript.sml (hunk 10 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml:9657]: This raises questions about:
`COUNT_ONE`
`REAL_PROD_IMAGE_SING` (doesn't exist, I could make it)
`EXTREAL_PROD_IMAGE_SING` (the thing you ask about existing)
`REAL_SUM_IMAGE_SING`
`EXTREAL_SUM_IMAGE_SING`
`EXTREAL_SUM_IMAGE_COUNT_ONE`

As for why `EXTREAL_PROD_IMAGE_SING` isn't a `[simp]`, that calculus predates me. I suspect whoever initially proved it either didn't know about `[simp]`s, or was worried about making too many things `[simp]`s (although perhaps I am projecting).

That said, I'm happy to make whatever `[simp]`s. Incidentally, how do you do that with the old `store_thm()` syntax?

**Comment by jdyeager** [comment]
Could someone give me a brief lesson about this unicode violation business? I ran with the `-t` flag, there are some violations. As best I can some combination of ⇒, ≤, maybe λ or ∑, and ⇔ are bad news. Should I just be replacing them with more ascii variants?

**Comment by mn200** [comment]
Yes.  The policy is that Unicode other than the magic quotes and the lambda character shouldn't appear under `src`.

File: src/probability/extrealScript.sml (hunk 10 above)
Comment (binghe) [reply src/probability/extrealScript.sml:9657]: In old `store_thm()` syntax you can do the same: just put `[simp]` as part of the theorem name string (only with that string but SML variable name). The older way is to call `export_rewrites`, in `pred_setScript.sml` there should be such examples.

I personally tend to not declare too much `[simp]` for less common logical constants. Initially I consider `EXTREAL_PROD_IMAGE` is only needed in very few cases, and I should bother too much the automatic simplifier.  Furthermore, sometimes I meet the cases that a goal is simplified too much due to some later-added `[simp]` and as a solution I may remove some unwanted `[simp]`.

I suggest for now you can just follow what @mn200 suggests and get the PR merged ASAP. Later in proving other theorems it is always possible to adjust set `[simp]` properties (before next official release).

**Comment by mn200** [comment]
There's an emacs mode command in HOL/Misc that replaces lots of Unicode with ASCII equivalents.

File: src/pred_set/src/pred_setScript.sml (hunk 4 above)
Comment (mn200) [reply src/pred_set/src/pred_setScript.sml]: Yes!

File: src/probability/extrealScript.sml (hunk 6 above)
Comment (mn200) [reply src/probability/extrealScript.sml:9501]: I'd hope that automatic rules for `<` and `<=` would just make everyone's life simpler. My annotations may not have been clear enough, but I certainly wasn't suggesting that the rewrites for numerals inside and outside `Normal` should be `simp`.

Comment (jdyeager) [reply src/probability/extrealScript.sml:9501]: I absolutely agree. I just suspect that there are some proofs that produced subgoals that having these simps will now automatically solve. Or some assumption gets simplified and so a dependent drule or irule doesn't work right. I suspect something will break. So I wanted to get easier stuff addressed first.

That said, perhaps I will tackle these while I wait for judgement to be rendered on the various `(EXT)REAL_{SUM,PROD}_IMAGE_{EMPTY,SING,COUNT_{ZERO,ONE}}` theorems.

(Also, thankfully, I didn't misunderstand about the `Normal 0 = 0` type theorems. Otherwise, I would have commented about how many times I've used those backwards.)

File: src/probability/extrealScript.sml (hunk 10 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml:9660]: I absolutely intend to follow Michael's suggestions, but I just also wanted to solicit his judgement on other similar theorems while I was at it.

But I also want to get the PR to an acceptable state ASAP. Especially since this is only the first batch of results. I wanted to do the Lebesgue stuff in a separate batch, because I suspected there would be some issues. I'll start working on isolating the stuff tomorrow.

**Comment by jdyeager** [comment]
Funny story: I wrote a lousy perl script to do some of this (as an excuse to learn some perl) before I saw your HOL/Misc comment. But unicode is now sanitised.

**Comment by mn200** [comment]
Heh.  I'm not sure I'd recommend learning Perl to anyone.  (You should have done it in SML :) )  But hey, add something else to your quiver of acquired CS skills.

File: src/probability/extrealScript.sml (hunk 11 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml]: Done

File: src/probability/extrealScript.sml (hunk 10 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml:9660]: Can confirm, all of these break things. So, @mn200, what are the magical incantations to disable and re-enable simps? I'm not seeing anything obvious in simpLib.

Comment (mn200) [reply src/probability/extrealScript.sml:9660]: Use `Excl "thmname"` as an argument in the list of theorems passed to `simp` and friends.   Or, to induce a more long-lasting change, use `val _ = temp_delsimps ["thmname1", "thmname2"]`.

Comment (jdyeager) [reply src/probability/extrealScript.sml:9660]: The `temp_delsimps` is more what I was looking for. Anything to bring a simp back later on after that? (Basically allowing me to disable them for a number of proofs within the script.)

Comment (mn200) [reply src/probability/extrealScript.sml:9660]: Yes (`augment_srw_ss`), but it's super gross to leave a script in a state where non-obvious chunks of it will behave differently because of theorems jumping in and out of the global simpset value.  If you're going to use `temp_delsimps` put it at the top of the file and don't undo it later on.

Comment (binghe) [reply src/probability/extrealScript.sml:9660]: I think, if one has to prove something by excluding some theorems instead of applying some, this would be counter-intuitive to what humans usually do.

File: src/probability/extrealScript.sml (hunk 9 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml]: Done

File: src/probability/extrealScript.sml (hunk 10 above)
Comment (jdyeager) [reply src/probability/extrealScript.sml]: Done

File: src/real/real_sigmaScript.sml (hunk 12 above)
Comment (jdyeager) [reply src/real/real_sigmaScript.sml]: Done

**Comment by jdyeager** [comment]
Some setup remains to be done for making other things simps.
Making EXTREAL_SUM_IMAGE_EMPTY a simp breaks things, I will try to address that.
Also added an extreal_1_simp to go with the extreal_0_simp.

**Comment by mn200** [comment]
As discussed, I'll rebase and merge this now, and we can collectively fix any remaining problems.

**Comment by mn200** [comment]
I just built HOL with this merged and there were no errors.  So #remaining-problems = 0, it appears.

**Comment by mn200** [comment]
I take it back: SLLN_uncorrelated now fails to prove in `examples/probability`.  (My first build was only at `-t1`.)

**Comment by binghe** [comment]
> I take it back: SLLN_uncorrelated now fails to prove in `examples/probability`. (My first build was only at `-t1`.)

Small problem. Tomorrow I will send a PR to fix this, together with more `[simp]` conversions.
